US07514470B2
1,1-Dimethylethyl 2-[(3,4-dicyanophenyl)(2,2,2-trifluoroethyl)amino]butanoate
Synthesized in a manner similar to example 1B using 4-[(2,2,2-trifluoroethyl)amino]-1,2-benzenedicarbonitrile and tert-butyl 2-bromobutanoate: MS (ES) m/z 368 (M+1).

reactant | 4-[(2,2,2-trifluoroethyl)amino]-1,2-benzenedicarbonitrile | FC(CNC=1C=C(C(=CC1)C#N)C#N)(F)F | C10H6F3N3
reactant | tert-butyl 2-bromobutanoate | BrC(C(=O)OC(C)(C)C)CC | C8H15BrO2
product | 1,1-Dimethylethyl 2-[(3,4-dicyanophenyl)(2,2,2-trifluoroethyl)amino]butanoate | C(#N)C=1C=C(C=CC1C#N)N(C(C(=O)OC(C)(C)C)CC)CC(F)(F)F | C18H20F3N3O2
